US04623728
(-)-1-(3-Phenylpropyl)-3-(4-fluoro-3-hydroxyphenyl)piperidine
The 1-(3-phenylpropyl)-3-(4-fluoro-3-methoxyphenyl)piperidine from Preparation 5 was reacted with 48% aqueous hydrobromic acid in glacial acetic acid using the procedure of Example 3. The product was chromatographed on silica gel, eluting with ethyl acetate/hexane/triethylamine (5:5:3). This afforded a 32% yield of the title compound, [alpha]D25 =-21.2° (c=1; C2H5OH).

reactant | 1-(3-phenylpropyl)-3-(4-fluoro-3-methoxyphenyl)piperidine | C1(=CC=CC=C1)CCCN1CC(CCC1)C1=CC(=C(C=C1)F)OC | C21H26FNO
reactant | hydrobromic acid | Br | BrH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (-)-1-(3-Phenylpropyl)-3-(4-fluoro-3-hydroxyphenyl)piperidine | 32% yield | C1(=CC=CC=C1)CCCN1CC(CCC1)C1=CC(=C(C=C1)F)O | C20H24FNO
